US07141583B2
Methanesulfonic acid (5R)-3-[4-(3,6-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl ester
(5R)-3-[4-(3,6-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]-5-hydroxymethyloxazolidin-2-one (14 g, 45.3 mmol) was dissolved in dichloromethane (300 ml) and triethylamine (8.8 ml, 63.3 mmol) was added. It was cooled to −20° C. and methanesulfonyl chloride (4.22 ml, 54.4 mmol), dissolved in dichloromethane (50 ml), was added dropwise. The reaction mixture was allowed to warm to room temperature and was quenched with potassium phosphate buffer (pH 7). Dichloromethane was removed under vacuum and it was extracted with ethyl acetate, washed with water and dried over magnesium sulfate. The title compound (16.9 g) was precipitated from dichloromethane by addition of hexane.

reactant | (5R)-3-[4-(3,6-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]-5-hydroxymethyloxazolidin-2-one | 45.3 mmol, 14 g | S1CCC(=CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CO)=O)F | C15H16FNO3S
reactant | triethylamine | 63.3 mmol, 8.8 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 54.4 mmol, 4.22 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Methanesulfonic acid (5R)-3-[4-(3,6-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl ester | S1CCC(=CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COS(=O)(=O)C)=O)F | C16H18FNO5S2
